US08071650B2
Step 1: Synthesis of methyl-1H-pyrrol-2-carboxaldehyde oxime
Methyl-2-pyrrolecarboxaldehyde (5 g), hydroxylamine hydrochloride (9.55 g) and sodium acetate (11.28 g) were dissolved in methanol (100 ml) and the solution was refluxed for 12 hours. Aftre confirming the completion of the reaction using TLC, the resulting mixture was purified by column-chromatography (ethyl acetate/hexane=3/1) to yield the compound (5.01 g, 88%) as a brown solid.

reactant | Methyl-2-pyrrolecarboxaldehyde | 5 g | CC1=C(NC=C1)C=O | C6H7NO
reactant | hydroxylamine hydrochloride | 9.55 g | Cl.NO
reactant | sodium acetate | 11.28 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | methyl-1H-pyrrol-2-carboxaldehyde oxime | 5.01 g, 88% | CN1C(=CC=C1)C=NO | C6H8N2O
